US06090836
A solution of 2,4-dihydrobezophenone (2.14 grams) in DMF (20 mL) was treated with potassium carbonate (1.45 grams). This mixture was heated to 40° C. and stirred for 0.5 hours. To this mixture was added allyl bromide (3.6 grams), then the reaction was stirred overnight. The mixture was diluted with ethyl acetate and washed with 1 M HCl solution and brine. The organic phase was dried over sodium sulfate and filtered. The solvent was removed in vacuo and the resulting oil was filtered through a plug of silica gel using methylene chloride and hexane (1:2) to give 4-allyloxy-2-hydroxybenzophenone. This was then dissolved in 1,2-dichlorobenzene and refluxed for 24 hours. The solvent was evaporated in vacuo and the resulting oil was filtered through a plug of silica gel using methylene chloride and hexane (1:1) to give 3-allyl-2,4-dihydrobezophenone. 3-allyl-2,4-dihydrobezophenone (1.0 grams) was dissolved in methanol (20 mL) and treated with hydroxylamine hydrochloride (1.35 grams) and sodium acetate (1.6 grams) and refluxed overnight. The solvent was evaporated in vacuo and the resulting solid was partitioned in ethyl acetate and pH 7 buffer. The organic phase was dried over sodium sulfate and filtered. The solvent was removed to give a solid. This was stirred in acetic anhydride for 2 hours and then the solvent was remove in vacuo to give an oil. The oil was dissolved in pyridine and refluxed overnight. The solvent was evaporated in vacuo and the residue was filtered through a pad of siliga gel using methylene chloride and hexane (1:1) to give 7-allyl-3-phenyl-6-hydroxybenz-[4,5]-isoxazole. To a solution of 7-allyl-3-phenyl-6-hydroxybenz-[4,5]-isoxazole (0.5 grams) in 2 mL of ethyl ether was added diazomethane (15 mL of a 0.70M soln. in Et2O) under nitrogen followed by the addition of palladium acetate (cat., 2 mg). The reaction mixture was stirred at ambient temperature for 30 min until gas evolution had ceased. The ether was evaporated in vacuo, and the residue was purified on a silica gel flash chromatography column eluted with 10% EtOAc:hexane. Evaporation of the purified fractions and solvent removal in vacuo afforded the product.

reactant | 3-allyl-2,4-dihydrobezophenone | 1.0 grams | C(C=C)C1CC(C(=O)C2=CC=CC=C2)C=CC1 | C16H18O
reactant | hydroxylamine hydrochloride | 1.35 grams | Cl.NO
reactant | sodium acetate | 1.6 grams | C(C)(=O)[O-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-allyl-3-phenyl-6-hydroxybenz-[4,5]-isoxazole | C(C=C)C1=C(C=CC=2C(=NOC21)C2=CC=CC=C2)O | C16H13NO2
